US07790770B2
(R)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(4-fluorophenyl)-2-phenylethanamine (21.5 mg, 0.057 mmol) in dichloroethane (0.5 mL) in a two drum vial was added 4-fluoro-3-(trifluoromethyl)benzaldehyde (21.9 mg, 0.114 mmol) followed by a drop of acetic acid. The reaction mixture was shaken for 20 minutes at room temperature before NaBH(OAc)3 (36.3 mg, 0.171 mmol) was added. The reaction was stirred at room temperature overnight. The solvents were removed and the residue was purified by preparative HPLC (phenominex C18 column, 21×100 mm, 5μ) using MeOH/H2O (with 0.1% TFA) to give (R)—N-(4-fluoro-3-(trifluoromethyl)benzyl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(4-fluorophenyl)-2-phenylethanamine as a colorless oil (17.5 mg, 46% yield). LCMS: 4.32 min (4 min gradient, MeOH/H2O 0.1% TFA); 1H NMR (400 MHz, CDCl3) δ ppm 3.78-3.91 (m, 4H), 6.60 (d, J=7.47 Hz, 2H), 7.14-7.27 (m, 7H), 7.35-7.48 (m, 6H).

reactant | (R)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(4-fluorophenyl)-2-phenylethanamine | 0.057 mmol, 21.5 mg | FC=1C=C(C=C(C1)C(F)(F)F)[C@](CC1=CC=CC=C1)(N)C1=CC=C(C=C1)F | C21H16F5N
reactant | 4-fluoro-3-(trifluoromethyl)benzaldehyde | 0.114 mmol, 21.9 mg | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.171 mmol, 36.3 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 0.5 mL | ClC(C)Cl | C2H4Cl2
product | (R)—N-(4-fluoro-3-(trifluoromethyl)benzyl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(4-fluorophenyl)-2-phenylethanamine | 17.5 mg, 46% yield | FC1=C(C=C(CN[C@](CC2=CC=CC=C2)(C2=CC=C(C=C2)F)C2=CC(=CC(=C2)C(F)(F)F)F)C=C1)C(F)(F)F | C29H20F9N
